US07186729B2
5-{3-[4-(4-Chloro-phenyl)-4-hydroxy-3-methyl-piperidin-1-yl]-propylidene}-5,11-dihydro-10-oxa-1-aza-dibenzo[a,d]cyclohepten-7-ol
To a solution of 4-(4-Chloro-phenyl)-3-methyl-piperidin-4-ol (1.0 g, 4.6 mmol) in DMF (10 mL) with triethylamine (1.75 mL, 12.54 mmol), was added 5-(3-Bromo-propylidene)-5,11-dihydro-10-oxa-1-aza-dibenzo[a,d]cyclohepten-7-ol (1.38 g, 4.18 mmol) dropwise for over a period of about 1.5 hours at about 50° C. The reaction was stirred overnight at about 50° C. The reaction was quenched with water, extracted with ethyl acetate, and evaporated in vacuo. The residue was purified by silica gel chromatography (87:10:3 ethyl acetate:methanol:triethylamine) to yield a brown solid of the title compound.

reactant | 4-(4-Chloro-phenyl)-3-methyl-piperidin-4-ol | 4.6 mmol, 1.0 g | ClC1=CC=C(C=C1)C1(C(CNCC1)C)O | C12H16ClNO
reactant | triethylamine | 12.54 mmol, 1.75 mL | C(C)N(CC)CC | C6H15N
reactant | 5-(3-Bromo-propylidene)-5,11-dihydro-10-oxa-1-aza-dibenzo[a,d]cyclohepten-7-ol | 4.18 mmol, 1.38 g | BrCCC=C1C2=C(OCC3=C1C=CC=N3)C=CC(=C2)O | C16H14BrNO2
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 5-{3-[4-(4-Chloro-phenyl)-4-hydroxy-3-methyl-piperidin-1-yl]-propylidene}-5,11-dihydro-10-oxa-1-aza-dibenzo[a,d]cyclohepten-7-ol | ClC1=CC=C(C=C1)C1(C(CN(CC1)CCC=C1C2=C(OCC3=C1C=CC=N3)C=CC(=C2)O)C)O | C28H29ClN2O3
